US05225442
Stage G: 2-(7-Methoxynaphth-1-Yl)Ethylamine
A solution of (7-methoxynaphth-1-yl)acetonitrile in ethanol saturated with ammonia is placed in an autoclave. Raney nickel and hydrogen at 300 atmospheres are added.

reactant | (7-methoxynaphth-1-yl)acetonitrile | COC1=CC=C2C=CC=C(C2=C1)CC#N | C13H11NO
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 2-(7-Methoxynaphth-1-Yl)Ethylamine | COC1=CC=C2C=CC=C(C2=C1)CCN | C13H15NO
